US08076345B2
2-{4-[(Benzooxazol-5-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (100 mg, 0.35 mmol) and benzo[d]oxazol-5-ylmethanamine (150 mg, 0.41 mmol) in acetonitrile (3 mL) and N,N-diisopropylethylamine (0.37 mL, 2.1 mmol) was subjected to microwave irradiation at 185° C. for 2.5 h. The reaction mixture was concentrated and purified by preparative HPLC (100×20.2 mm, C18 column; 30-60% CH3CN-water [10 mM Et2NH]) to yield a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.35 mmol, 100 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | benzo[d]oxazol-5-ylmethanamine | 0.41 mmol, 150 mg | O1C=NC2=C1C=CC(=C2)CN | C8H8N2O
reactant | N,N-diisopropylethylamine | 2.1 mmol, 0.37 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 2-{4-[(Benzooxazol-5-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile | O1C=NC2=C1C=CC(=C2)CNC=2C1=C(N=CN2)CCN(C1)C1=C(C#N)C=C(C=C1)C | C23H20N6O
